US09388197B2
A.1.9.2. 5-(3-((tert-Butyldimethylsilyl)oxy)-1-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-2,4-dichlorothiazole
A soln. of 3-((tert-butyldimethylsilyl)oxy)-1-(2,4-dichlorothiazol-5-yl)propan-1-ol (6.62 g, 19.3 mmol), 3,4-dihydro-2H-pyran (8.9 mL, 96.7 mmol) and PPTS (0.49 g, 1.93 mmol) in DCM (75 mL) was stirred under reflux for 2 h. Subsequently, the volatiles were removed in vacuo and the residue was purified by means of CC (1-10% EtOAc/Hept) to provide the product as colorless oil as an isomeric mixture.

reactant | 3-((tert-butyldimethylsilyl)oxy)-1-(2,4-dichlorothiazol-5-yl)propan-1-ol | 19.3 mmol, 6.62 g | [Si](C)(C)(C(C)(C)C)OCCC(O)C1=C(N=C(S1)Cl)Cl | C12H21Cl2NO2SSi
reactant | 3,4-dihydro-2H-pyran | 96.7 mmol, 8.9 mL | O1CCCC=C1 | C5H8O
reactant | PPTS | 1.93 mmol, 0.49 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-((tert-Butyldimethylsilyl)oxy)-1-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-2,4-dichlorothiazole | [Si](C)(C)(C(C)(C)C)OCCC(OC1OCCCC1)C1=C(N=C(S1)Cl)Cl | C17H29Cl2NO3SSi
